US07598391B2
(4-{[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carbonyl]-amino}-phenyl)-acetic acid ethyl ester
Prepared as described in general procedure (K) using 2-(3,3-dicyclohexyl-ureido)-thiazole-5-carboxylic acid and 4-aminophenylacetic acid ethylester.

reactant | 2-(3,3-dicyclohexyl-ureido)-thiazole-5-carboxylic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)C(=O)O)=O)C1CCCCC1 | C17H25N3O3S
reactant | 4-aminophenylacetic acid ethylester | C(C)OC(CC1=CC=C(C=C1)N)=O | C10H13NO2
product | (4-{[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-carbonyl]-amino}-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)NC(=O)C1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C27H36N4O4S
